US07977344B2
2-Chloro-8-methoxy-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-Purin-6-amine
To a solution of 8-bromo-2-chloro-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-purin-6-amine (1.36 g) in dry MeOH (27.5 mL) was added 1M sodium hydroxide solution (27.5 mL) and the mixture was stirred at reflux for 30 mins. The reaction was cooled to room temperature and concentrated in vacuo. The residue obtained was triturated with water (60 mL) and extracted with EtOAc (120 mL). The organic layer was washed with brine (60 mL), dried over MgSO4, filtered and concentrated in vacuo to give a pink/white solid. The material was taken up in MeOH/DMSO (1:1) and a precipitate crashed out of solution. The solid was filtered off and the filtrate was purified by C18 reverse phase chromatography (ISCO) using water (0.1% formic acid)-acetonitrile (0.05% formic acid) as eluent (10-45%). The filtered solid was combined with the material obtained from the purification to give the title compound (192 mg).

reactant | 8-bromo-2-chloro-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-purin-6-amine | 1.36 g | BrC=1N(C2=NC(=NC(=C2N1)N)Cl)CC1CCOCC1 | C11H13BrClN5O
reactant | sodium hydroxide | 1M, 27.5 mL | [OH-].[Na+]
reactant | MeOH | 27.5 mL | CO | CH4O
solvent | MeOH DMSO | CO.CS(=O)C
product | 2-Chloro-8-methoxy-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-Purin-6-amine | 192 mg | ClC1=NC(=C2N=C(N(C2=N1)CC1CCOCC1)OC)N | C12H16ClN5O2
